US04325201
Preparation of 4-bromo-2-t-octyl-3-isothiazolone
To a solution of 10.7 g. (0.05 mole) of 2-t-octyl-3-isothiazolone in 100 ml. of chloroform was added in a single portion 17.8 g. (0.1 mole) of N-bromosuccinimide, and a slight exotherm was observed. After stirring for 3 hours the mixture was filtered, and the solid washed with ether. The chloroform filtrate and ether washings were then evaporated to give a total of 7.8 g. (54%) of 4-bromo-2-t-cetyl-3-isothiazolone, m.p. 133-142.

reactant | 2-t-octyl-3-isothiazolone | 0.05 mole | C(C)(C)(CC(C)(C)C)N1SC=CC1=O | C11H19NOS
reactant | N-bromosuccinimide | 0.1 mole | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-t-octyl-3-isothiazolone | BrC=1C(N(SC1)C(C)(C)CC(C)(C)C)=O | C11H18BrNOS
